// Standalone AC, STB, noise, and operating-point deck
// Default condition: TT, 27 C, VDD = 0.9 V
simulator lang=spectre
global 0
parameters vddval=0.9 vcmival=0.66 vres=0 vswing=0 csv=3.7p cfv=462.5f clv=500f rfv=80k rsv=10k

// PDK setup:
// Replace only the path inside quotation marks with the corresponding master
// Spectre model deck in your local TSMC 28 nm PDK installation. The selected
// file must define the five sections used below.
include "/path/to/your/TSMC28_PDK/models/spectre/crn28ull_1d8_elk_v1d8_2p2_shrink0d9_embedded_usage.scs" section=pre_simu
include "/path/to/your/TSMC28_PDK/models/spectre/crn28ull_1d8_elk_v1d8_2p2_shrink0d9_embedded_usage.scs" section=noise_worst
include "/path/to/your/TSMC28_PDK/models/spectre/crn28ull_1d8_elk_v1d8_2p2_shrink0d9_embedded_usage.scs" section=TTMacro_MOS_MOSCAP
include "/path/to/your/TSMC28_PDK/models/spectre/crn28ull_1d8_elk_v1d8_2p2_shrink0d9_embedded_usage.scs" section=TT_RES_BIP_DIO_DISRES
include "/path/to/your/TSMC28_PDK/models/spectre/crn28ull_1d8_elk_v1d8_2p2_shrink0d9_embedded_usage.scs" section=TT_MOM

// ======================= TB ========================
// ============================================================================
// AC/STB/noise testbench with three independent DUT instances:
//  xcl : Closed-loop MDAC amplification configuration. The summing nodes are
//        DC-biased to VCMI through 1e9 H inductors. Ideal baluns and iprobe
//        ipdm measure the differential-mode loop.
//  xol : Open-loop gain instance with direct input bias and differential AC
//        excitation. Each output is loaded by 860 fF.
//  xsw : Resistive-feedback gain-of-eight instance for positive and negative
//        maximum-residue operating points and loop-stability checks.
//  balun_dc uses ideal VCVS and CCCS elements as testbench instrumentation.
// ============================================================================
// Testbench parameters are declared at the top of this deck.
simulator lang=spectre

// ---- Ideal differential/common-mode balun ---------------------------------
subckt balun_dc (d c p n)
  vsp (p px) vsource dc=0
  vsn (n nx) vsource dc=0
  ep  (px c d 0) vcvs gain=0.5
  en  (nx c d 0) vcvs gain=-0.5
  fd1 (0 d) cccs probe=vsp gain=0.5
  fd2 (d 0) cccs probe=vsn gain=0.5
ends balun_dc

// ---- Supply and common nodes ----------------------------------------------
vdd_s (vddn 0) vsource dc=vddval
vcmis (vcmi 0) vsource dc=vcmival

// ============================================================================
// Instance 1: closed-loop MDAC configuration xcl
// ============================================================================
ib1   (vddn ibn1) isource dc=20u
vrst0 (prst0 0) vsource dc=0
xcl   (vddn 0 sna snb outp outn ibn1 prst0) ota_core

// Bottom-plate excitation. vres_a is the noise input reference source.
vbcma (bpma 0)   vsource dc=vcmival
vbcmb (bpmb 0)   vsource dc=vcmival
vres_a (bpa bpma) vsource dc=vres/2  mag=0.5
vres_b (bpb bpmb) vsource dc=-vres/2 mag=-0.5

// CDAC sampling capacitors; the bottom plates are at AC ground.
csa (bpa sna) capacitor c=csv
csb (bpb snb) capacitor c=csv

// Summing-node DC bias. A 1e9 H inductor is a DC short and an AC open.
lba (sna vcmi) inductor l=1e9
lbb (snb vcmi) inductor l=1e9

// Differential-loop path: outputs -> balun -> ipdm -> balun -> feedback caps.
xbal1 (dm1 cmm outp outn) balun_dc
ipdm  (dm1 dm2) iprobe
xbal2 (dm2 cmm fbp fbn) balun_dc
cfa (sna fbn) capacitor c=cfv
cfb (snb fbp) capacitor c=cfv

// Output load.
clp (outp 0) capacitor c=clv
cln (outn 0) capacitor c=clv

// ============================================================================
// Instance 2: open-loop gain measurement xol
// ============================================================================
ib2   (vddn ibn2) isource dc=20u
xol   (vddn 0 olip olin olop olon ibn2 prst0) ota_core
volp  (olip 0) vsource dc=vcmival mag=0.5
voln  (olin 0) vsource dc=vcmival mag=-0.5
clop  (olop 0) capacitor c=860f
clon  (olon 0) capacitor c=860f

// ============================================================================
// Instance 3: resistive-feedback swing instance xsw with DC gain of -8
// ============================================================================
ib3   (vddn ibn3) isource dc=20u
xsw   (vddn 0 snaw snbw outpw outnw ibn3 prst0) ota_core
vswa  (swa 0) vsource dc=vcmival+vswing/2
vswb  (swb 0) vsource dc=vcmival-vswing/2
rsa_w (swa snaw) resistor r=rsv
rsb_w (swb snbw) resistor r=rsv
xbal3 (dm1w cmmw outpw outnw) balun_dc
ipdmw (dm1w dm2w) iprobe
xbal4 (dm2w cmmw fbpw fbnw) balun_dc
rfa_w (snaw fbnw) resistor r=rfv
rfb_w (snbw fbpw) resistor r=rfv
// Parallel capacitors preserve the high-frequency dynamics of the MDAC while
// the resistors define the DC operating point.
cs_wa (snaw vcmi) capacitor c=csv
cs_wb (snbw vcmi) capacitor c=csv
cf_wa (snaw fbnw) capacitor c=cfv
cf_wb (snbw fbpw) capacitor c=cfv
clpw  (outpw 0) capacitor c=clv
clnw  (outnw 0) capacitor c=clv

// ==================== analyses =====================
simulatorOptions options psfversion="1.4.0" reltol=1e-4 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3

dcop dc maxiters=200 annotate=status
dcOpInfo info what=oppoint where=rawfile

ac1 ac start=100 stop=50G dec=25 annotate=status
noise1 (outp outn) noise start=1k stop=20G dec=20 iprobe=vres_a annotate=status

stbdm  stb start=1k stop=50G dec=20 probe=ipdm  annotate=status
stbcm1 stb start=1k stop=50G dec=20 probe=xcl.ipcm1 annotate=status
stbcm2 stb start=1k stop=50G dec=20 probe=xcl.ipcm2 annotate=status
stbbst stb start=1k stop=50G dec=20 probe=xcl.ipbsta annotate=status

// Positive and negative maximum-residue operating points and loop stability.
altp alter param=vswing value=56.25m
dcswp dc maxiters=200 annotate=status
opswp info what=oppoint where=rawfile
stbswp stb start=1k stop=50G dec=20 probe=ipdmw annotate=status
altn alter param=vswing value=-56.25m
dcswn dc maxiters=200 annotate=status
opswn info what=oppoint where=rawfile
stbswn stb start=1k stop=50G dec=20 probe=ipdmw annotate=status

save vdd_s:p outp outn sna snb \
    xcl.stage1_out_p xcl.stage1_out_n xcl.fold_node_p xcl.fold_node_n \
    xcl.input_pair_source xcl.cmfb1_control xcl.cmfb2_control \
    xcl.fold_voltage_ref xcl.stage1_cm_ref xcl.n_cascode_bias \
    xcl.n_cascode_bias_source xcl.pboost_p_amp_out xcl.pboost_n_amp_out \
    xcl.p_cascode_gate_p xcl.p_cascode_gate_n xcl.n_cascode_source_p \
    xcl.n_cascode_source_n xcl.cmfb2_sense_shifted xcl.cmfb2_ref_shifted \
    xcl.pboost_p_sf_out xcl.p_bias_ref xcl.p_top_bias xcl.pboost_p_tail \
    xcl.miller_zero_p xcl.cmfb1_sense_drain xcl.cmfb1_ref_drain \
    xcl.cmfb1_p_sense_source \
    outpw outnw snaw snbw olop olon
saveOptions options save=selected
